US04585796
5 g of 5-(3-aminopropyl)-2-thiophenecarboxamide and 3.4 ml of (S)-phenylethylene oxide were stirred at 95° for 26 hours in 68 ml of dimethyl sulphoxide. The mixture was poured into 200 ml of water and extracted three times with 150 ml of methylene chloride. The methylene chloride solutions were washed with water, dried and evaporated in vacuo. Chromatography of the residue on silica gel with ether/methanol gave 2.85 g of 5-[3-[bis-[(S)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxamide; [α]D =+76° (c=0.1% in dioxan); UV: ε277 =10390.

reactant | 5-(3-aminopropyl)-2-thiophenecarboxamide | 5 g | NCCCC1=CC=C(S1)C(=O)N | C8H12N2OS
reactant | (S)-phenylethylene oxide | 3.4 ml | C1(=CC=CC=C1)[C@H]1CO1 | C8H8O
reactant | water | 200 ml | O | H2O
solvent | dimethyl sulphoxide | 68 ml | CS(=O)C | C2H6OS
product | 5-[3-[bis-[(S)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxamide | 2.85 g | O[C@H](CN(CCCC1=CC=C(S1)C(=O)N)C[C@H](C1=CC=CC=C1)O)C1=CC=CC=C1 | C24H28N2O3S
